US06238752B1
In 200 ml of acetone was suspended 20.3 g of N-hydroxymethyl-α-phenylmaleimide and then 4.6 ml of phosphorus trichloride was added in one portion at room temperature. After the mixture was stirred for 30 minutes, 5.0 ml of phosphorus trichloride was further added. After stirring for another one hour, the reaction solution was poured into ice-water and the crystals thus separated were collected by filtration. The crude crystal was dried under reduced pressure and then recrystallized from n-theptane/ethyl acetate to afford 12.1 g of N-chloromethyl-α-phenylmaleimide.

reactant | N-hydroxymethyl-α-phenylmaleimide | 20.3 g | OCN1C(C(=CC1=O)C1=CC=CC=C1)=O | C11H9NO3
reactant | phosphorus trichloride | 4.6 ml | P(Cl)(Cl)Cl | Cl3P
reactant | phosphorus trichloride | 5.0 ml | P(Cl)(Cl)Cl | Cl3P
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-chloromethyl-α-phenylmaleimide | 12.1 g | ClCN1C(C(=CC1=O)C1=CC=CC=C1)=O | C11H8ClNO2
